US04537989
To a toluene solution (20 ml) of 8-hydroxyimino-cis-bicyclo[4,3,0]nona-3-ene (1 g), was added sodium hydride (50% mineral oil dispersion, 330 mg), and the mixture was stirred for 0.5 hr at room temperature. After addition of γ-chlorobutyronitrile (5 g) to the mixture, stirring was continued for 2 hr. After cooling, the reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with water and dried over Na2SO4 and concentrated to give an oil. This material was chromatographed on silica gel to give 8-(3'-cyanopropoxy)imino-cis-bicyclo[4,3,0]nona-3-ene as an oil.

reactant | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
reactant | 8-hydroxyimino-cis-bicyclo[4,3,0]nona-3-ene | 1 g | ON=C1C[C@@H]2CC=CC[C@@H]2C1 | C9H13NO
reactant | sodium hydride | 330 mg | [H-].[Na+]
reactant | γ-chlorobutyronitrile | 5 g | ClCCCC#N | C4H6ClN
solvent | water | O | H2O
product | 8-(3'-cyanopropoxy)imino-cis-bicyclo[4,3,0]nona-3-ene | C(#N)CCCON=C1C[C@@H]2CC=CC[C@@H]2C1 | C13H18N2O
